US04064131
129.6 gm of at least 98 percent pure 1,3-phenylene diamine (melting point: 60° to 62° C) and 750 ml of 10 percent acetic acid were placed in a sulfurizing flask, equipped with an anchor bolt, reflux cooler, drip funnel, thermometer and water bath. 211.2 gm of diketene were allowed to drip into the reaction mixture over the course of 1.5 hours at room temperature. The reaction was stirred during the addition. The temperature, with the aid of the reaction heat, was allowed to rise to 60° to 65° C. After completion of the addition of diketene, the mixture was allowed to continue for another hour at 60° to 65° C. and was then cooled to about 15° C. The precipitated product was then separated out and dried under vacuum at 60° to 70° C. until the precipate reached a constant weight. 257 gm. of raw, almost colorless, 1,2-dihydro-3oxo-4-methyl-7-acetoacetamido-quinoline was obtained having a melting point of about 238° C. This corresponded to a yield of about 83 percent, based on the m-phenylene diamine. After a single recrystallization from 67 percent acetic acid, the product had a melting point of 246.0° to 247.0° C. After one more recrystallization from the diluted acetic acid, the melting point was found not to have changed.

reactant | 1,3-phenylene diamine | 129.6 gm | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | diketene | 211.2 gm | C=C1CC(=O)O1 | C4H4O2
solvent | acetic acid | 750 ml | C(C)(=O)O | C2H4O2
product | 1,2-dihydro-3oxo-4-methyl-7-acetoacetamido-quinoline | yield of about 83 percent | O=C1CNC2=CC(=CC=C2C1C)NC(CC(=O)C)=O | C14H16N2O3
